US07547691B2
Potassium tert-butoxide (9.40 g, 83.7 mmol) is suspended in THF (175 mL), then cooled to 0° C. Cyanomethyl-phosphonic acid diethyl ester (16.0 g, 90.2 mmol) is added over five minutes. After stirring for 20 minutes, 2,2,6,6-tetramethylpiperidin-4-one (10.0 g, 64.4 mmol) dissolved in THF (50 mL) is added to the reaction mixture at −78° C. After the addition is complete the cold bath is removed. The reaction is stirred overnight, then enough water is added to dissolve any suspended salts. The organic layer is separated and the aqueous layer is extracted with EtOAc. The organic layers are combined, concentrated, then the residue is chromatographed on silica gel, eluting with 0-3% 2M NH3/MeOH in dichloromethane to give 3.77 g of (2,2,6,6-tetramethylpiperidin-4-ylidene)-acetonitrile (33% yield).

reactant | Potassium tert-butoxide | 83.7 mmol, 9.40 g | CC(C)([O-])C.[K+]
reactant | Cyanomethyl-phosphonic acid diethyl ester | 90.2 mmol, 16.0 g | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | 2,2,6,6-tetramethylpiperidin-4-one | 64.4 mmol, 10.0 g | CC1(NC(CC(C1)=O)(C)C)C | C9H17NO
solvent | THF | 175 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (2,2,6,6-tetramethylpiperidin-4-ylidene)-acetonitrile | 3.77 g, 33% yield | CC1(NC(CC(C1)=CC#N)(C)C)C | C11H18N2
